US09255110B2
To a solution of 2-piperidin-1-yl-benzene-1,3-diamine (300 mg, 1.57 mmol) in N,N-dimethylformamide (4 mL) was added sodium hydride (60% suspension in mineral oil, 63 mg, 1.57 mmol) followed by 3-bromo-1-propanol (0.14 mL, 1.57 mmol) and the reaction mixture was stirred at 60° C. overnight. The resulting mixture was then extracted with ethyl acetate (150 mL) and the organic layer was washed twice with water (80 mL) and once with brine (80 mL), dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 60/40) to give 22 mg of 3-(3-amino-2-piperidin-1-yl-phenylamino)-propan-1-ol.

reactant | 2-piperidin-1-yl-benzene-1,3-diamine | 1.57 mmol, 300 mg | N1(CCCCC1)C1=C(C=CC=C1N)N | C11H17N3
reactant | sodium hydride | 1.57 mmol, 63 mg | [H-].[Na+]
reactant | 3-bromo-1-propanol | 1.57 mmol, 0.14 mL | BrCCCO | C3H7BrO
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-(3-amino-2-piperidin-1-yl-phenylamino)-propan-1-ol | 22 mg | NC=1C(=C(C=CC1)NCCCO)N1CCCCC1 | C14H23N3O
